US04567196
250 g of 2-acetamido-3-cyano-4-methyl-5-ethoxycarbonylthiophene, prepared in accordance with the method of K. Gewald, are refluxed for 24 hours in 1500 ml of acetone with 250 g of α-bromoacetophenone and 220 g of potassium carbonate; the whole is then precipitated in 4000 ml of ice-water. The resulting precipitate is filtered, washed with 1000 ml of an iced mixture of water/ethanol (1/1), then dried and finally washed with 1000 ml of a cold mixture of cyclohexane/benzene (9/1). In this manner 295 g of 2-ethoxycarbonyl-3-methyl-4-amino-5-benzoyl-6-acetylthieno[2,3-b]pyrrole are obtained, m.p.: 188° C.

reactant | 2-acetamido-3-cyano-4-methyl-5-ethoxycarbonylthiophene | 250 g | C(C)(=O)NC=1SC(=C(C1C#N)C)C(=O)OCC | C11H12N2O3S
reactant | α-bromoacetophenone | 250 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | potassium carbonate | 220 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 1500 ml | CC(=O)C | C3H6O
product | 2-ethoxycarbonyl-3-methyl-4-amino-5-benzoyl-6-acetylthieno[2,3-b]pyrrole | 295 g | C(C)OC(=O)C1=C(C2=C(N(C(=C2N)C(C2=CC=CC=C2)=O)C(C)=O)S1)C | C19H18N2O4S
